US07449456B2
1-(4-Nitrophenyl)piperazine and ethyl 4—bromobutanoate were allowed to undergo the reaction under heating in 1-methyl-2-pyrrolidone in the presence of potassium carbonate. The resulting compound was subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 to obtain ethyl 4-[4-(4-aminophenyl)-piperazin -1-yl]butanoate. F: 264.

reactant | 1-(4-Nitrophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | ethyl 4—bromobutanoate | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | ethyl 4-[4-(4-aminophenyl)-piperazin -1-yl]butanoate | NC1=CC=C(C=C1)N1CCN(CC1)CCCC(=O)OCC | C16H25N3O2
